US03936293
An ethereal solution of 90 g of chloroacetic acid anhydride is added dropwise to 73.6 g of 5-amino-1,2,3,4-tetrahydronapthalene in 1000 ml of diethyl ether. The temperature should not exceed 30°. The mixture is stirred for a further half hour at room temperature, then cooled to 0° and the precipitated product filtered off. After recrystallisation from ethanol, there is obtained 100 g of 5-chloroacetamino-1,2,3,4-tetrahydronaphthalene having a melting point of 155° - 157° (compound No. 2).

reactant | chloroacetic acid anhydride | 90 g | ClCC(=O)OC(CCl)=O | C4H4Cl2O3
reactant | 5-amino-1,2,3,4-tetrahydronapthalene | 73.6 g | NC1=C2CCCCC2=CC=C1 | C10H13N
reactant | diethyl ether | 1000 ml | C(C)OCC | C4H10O
product | 5-chloroacetamino-1,2,3,4-tetrahydronaphthalene | 100 g | ClC1=C2CCCC(C2=CC=C1)NC(=O)C | C12H14ClNO
